US07354940B2
N-BOC4-ethynylpiperidin, 0.5 g (2.40 mmol), and iodobenzene, 0.29 mL (2.64 mmol) were dissolved in triethylamine (9 mL) and argon was passed through for a few minutes. Copper(I) iodide, 0.087 g (0.5 mmol), and bis[triphenylphosphine]palladium dichloride, 0.070 g (0.1 mmol), were added and the mixture was heated to 82° C. in a closed vessel for 17 hours. TLC analysis indicated complete reaction. Triethylamine was evaporated and the mixture was purified by silica gel chromatography (75 mL) using heptane/ethyl acetate (4+1) as eluant. Evaporation of pure fractions gave 0.497 g (73%) of N-BOC4-(phenylethynyl)piperidine. The protected piperidine, 0.497 g (1.74 mmol), was dissolved in dichloromethane and trifluoroacetic acid (1 mL) was added. The reaction was completed within 20 hours and the mixture was evaporated to give an oil. NMR analysis showed pure ammonium trifluoroacetate, contaminated with trifluoroacetic acid. The product was dissolved in dichloromethane and extracted with aqueous sodium hydrogen carbonate and water. Evaporation of solvent gave 0.284 g (88%) of the sub-titled compound.

reactant | N-BOC4-ethynylpiperidin | C(=O)(OC(C)(C)C)N1CCC(CC1)C#C | C12H19NO2
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
solvent | triethylamine | 9 mL | C(C)N(CC)CC | C6H15N
catalyst | Copper(I) iodide | [Cu]I
product | N-BOC4-(phenylethynyl)piperidine | 0.497 g, 73% | C(=O)(OC(C)(C)C)N1CCC(CC1)C#CC1=CC=CC=C1 | C18H23NO2
